US04130652
By refluxing the solution of 9.1 g (0.03 mole) of 2-(2-ethoxy-2-phenyl-ethenyl)-1-pyrroline-tetrafluoroborate in 30 ml of isopropylamine for 1 hour and processing analogously to Example 1, there is obtained crude 2-[2-(isopropylimino)-2-phenylethylidene]-pyrrolidine. The crude base is dissolved in isopropanol, and 2.8 g of methanesulphonic acid is added, whereupon 2-[2-(isopropylimino)-2-phenyl-ethylidene]-pyrrolidine-(1:1)-methanesulphonate, m.p. 175°-176° (decomposition) crystallises out.

reactant | 2-(2-ethoxy-2-phenyl-ethenyl)-1-pyrroline tetrafluoroborate | 0.03 mole, 9.1 g | C(C)OC(=CC1=NCCC1)C1=CC=CC=C1.F[B-](F)(F)F
solvent | isopropylamine | 30 ml | C(C)(C)N | C3H9N
product | 2-[2-(isopropylimino)-2-phenylethylidene]-pyrrolidine | C(C)(C)N=C(C=C1NCCC1)C1=CC=CC=C1 | C15H20N2
